* OVERALL BEST CANDIDATE: 00_Phase_3_5V_to_220V_Inverter_Prep_Boost_cand11_b1
* FITNESS SCORE: 0.5000
*
* Generated: 2026-06-08T06:48:11
* Constraint: Phase 3: 5V to 220V Inverter Prep (Boost)
*   vin_min = 4.5
*   vin_max = 5.5
*   vout_target = 220
*   efficiency_target = 0.92
*   power_in = 250
* Candidate: 11 of 12
*
* 5V to 220V Boost, 250W
Vin in 0 5
L1 in sw 22u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 193.6
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1u 10m
.save V(*) I(*)
.end
